* eeschema netlist version 1.1 (spice format) creation date: monday 17 december 2012 11:24:34 am ist

* Printing option vprint1
e1  4 6 1 2 0.5
i1  0 6 1
v1  3 0 1
g1  6 1 0 2 0.5
r6  1 0 1
r3  2 0 1
r5  1 2 0.5
r4  2 6 1
r2  4 0 1
r1  4 3 1

.op

* Control Statements 
.control
run
print v(1)
.endc
.end
